US08232272B2
N-(4-chlorophenyl)-N′-{3-[5-[2-(2-furyl)-1-methyl-1H-benzimidazol-5-yl]-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]propyl}urea
120 mg (0.30 mM) of 3-(3-aminopropyl)-5-[2-(2-furyl)-1-methyl-1H-benzimidazol-5-yl]-3,6-dihydro-2H-1,3,4-thiadiazin-2-one and 50.1 mg (0.33 mM) of 1-chloro-4-isocyanatobenzene are added to 2 ml of THF and 164.33 μl (1.33 mM) of triethylamine. The mixture is stirred at room temperature for 20 hours. The solid is filtered off and washed with water and then with isopropanol to give, after drying, 106 mg of N-(4-chlorophenyl)-N′-{3-[5-[2-(2-furyl)-1-methyl-1H-benzimidazol-5-yl]-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]propyl}urea.

reactant | 3-(3-aminopropyl)-5-[2-(2-furyl)-1-methyl-1H-benzimidazol-5-yl]-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | 0.30 mM, 120 mg | NCCCN1C(SCC(=N1)C1=CC2=C(N(C(=N2)C=2OC=CC2)C)C=C1)=O | C18H19N5O2S
reactant | 1-chloro-4-isocyanatobenzene | 0.33 mM, 50.1 mg | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | THF | 2 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 1.33 mM, 164.33 μl | C(C)N(CC)CC | C6H15N
product | N-(4-chlorophenyl)-N′-{3-[5-[2-(2-furyl)-1-methyl-1H-benzimidazol-5-yl]-2-oxo-2H-1,3,4-thiadiazin-3(6H)-yl]propyl}urea | ClC1=CC=C(C=C1)NC(=O)NCCCN1C(SCC(=N1)C1=CC2=C(N(C(=N2)C=2OC=CC2)C)C=C1)=O | C25H23ClN6O3S
